US06248885B1
tert-Butylisobutylmethylamine (2a)
A 37% solution of formaldehyde (6.89 g, 85 mmol) was added dropwise to a mixture of tert-butylisobutylamine (10.00 g, 77 mmol) and 88% formic acid (7.85 g, 0.15 mol) at room temperature. The mixture was heated at 50-55° C. for 5 h. Aqueous 8 M potassium hydroxide (12.5 ml, 0.1 mol) was added, the organic layer was separated and the aqueous layer was extracted with n-pentane (50 ml). The extract was combined with the organic layer and dried over anhydrous magnesium sulfate. The product was isolated by distillation to yield 9.25 g, (84%), bp 44-45° C./18 mm Hg; 1H NMR (CDCl3) δ0.85 (d, J=6.7 Hz, 6H, CH3), 1.01 (s, 9H, CH3), 1.64 (nonet, J=6.7 Hz, 1H, CH), 2.02 (d, J=6.7 Hz, 2H, CH2), 2.15 (s, 3H, CH3).

reactant | formaldehyde | 85 mmol, 6.89 g | C=O | CH2O
reactant | tert-butylisobutylamine | 77 mmol, 10.00 g | C(C)(C)(C)NCC(C)C | C8H19N
reactant | formic acid | 0.15 mol, 7.85 g | C(=O)O | CH2O2
reactant | potassium hydroxide | 0.1 mol, 8 M, 12.5 ml | [OH-].[K+]
product | tert-Butylisobutylmethylamine | C(C)(C)(C)N(C)CC(C)C | C9H21N
